US04656182
A solution of trans-(±)-N-methyl-N-[2-(methylamino)cyclohexyl]benzo[b]thiophene-4-acetamide monohydrochloride (400 mg, 1.13 mmol) in dichloromethane (10 ml) was treated with aqueous potassium carbonate (30 ml) to liberate the parent amine. This oil was dissolved in ethanol (10 ml), dichloromethane (1 ml) and triethylamine (0.3 ml, 2.2 mmol) and treated with allyl bromide (257 mg, 2.1 mmol). This mixture was stirred in an oil bath at 50°-60° C. for six hours, concentrated in vacuo and partitioned between 10% aqueous potassium carbonate and dichloromethane. The organic fractions furnished an oil which after silica gel chromatography (100:1 ethyl acetate-triethylamine) gave trans-(±)-N-methyl-N-(2-[methyl(2-propenyl)amino]cyclohexyl)benzo[b]thiophene-4-acetamide (270 mg, 67%); δH (CDCl3) 6.0-4.3 (3H, m); Vmax (liquid film) 1637 cm-1.

reactant | trans-(±)-N-methyl-N-[2-(methylamino)cyclohexyl]benzo[b]thiophene-4-acetamide monohydrochloride | 1.13 mmol, 400 mg | Cl.CN(C(CC1=CC=CC=2SC=CC21)=O)[C@H]2[C@@H](CCCC2)NC
reactant | potassium carbonate | 30 ml | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 2.2 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | allyl bromide | 2.1 mmol, 257 mg | C(C=C)Br | C3H5Br
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | trans-(±)-N-methyl-N-(2-[methyl(2-propenyl)amino]cyclohexyl)benzo[b]thiophene-4-acetamide | 270 mg, 67% | CN(C(CC1=CC=CC=2SC=CC21)=O)[C@H]2[C@@H](CCCC2)N(CC=C)C | C21H28N2OS
